US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 52, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide (75 mg, 0.135 mmol) and ammonium hydroxide (3 mL), the title compound was obtained as an off-white solid (50 mg, 69% yield). MS (ESI): 538 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide | 0.135 mmol, 75 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H17ClF4N4O2S2
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H19F4N5O2S2
